US07696215B2
To a suspension of 3-(6-methoxy-4-oxoquinazolin-3(4H)-yl)-4-methylbenzoic acid (8 g) in 2,4,6-collidine (80 ml) was added LiI (6.2 g) and heated to 195° C. for 54 hours. The reaction mixture was cooled to room temperature and diluted with ethyl acetate. The organic phase was washed with water. The aqueous phase was acidified to pH˜1 with 1N HCl and the resultant solid collected by filtration. The solid was dried in vacuo at 60° C. to yield 3-(6-hydroxy-4-oxoquinazolin-3(4H)-yl)-4-methylbenzoic acid (7.2 g); NMR Spectrum: (DMSOd6) 2.14 (s, 3H), 7.33 (m, 1H), 7.48 (d, 1H), 7.56 (d, 1H), 7.62 (d, 1H), 7.91 (s, 1H), 7.97 (d, 1H), 8.12 (s, 1H); Mass Spectrum: M+H+ 297.

reactant | 3-(6-methoxy-4-oxoquinazolin-3(4H)-yl)-4-methylbenzoic acid | 8 g | COC=1C=C2C(N(C=NC2=CC1)C=1C=C(C(=O)O)C=CC1C)=O | C17H14N2O4
reactant | LiI | 6.2 g | [Li+].[I-]
solvent | 2,4,6-collidine | 80 ml | N1=C(C=C(C=C1C)C)C | C8H11N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(6-hydroxy-4-oxoquinazolin-3(4H)-yl)-4-methylbenzoic acid | 7.2 g | OC=1C=C2C(N(C=NC2=CC1)C=1C=C(C(=O)O)C=CC1C)=O | C16H12N2O4
